US06759554B2
2-Methoxy-N-hexylaniline (FIG. 11, Entry 1)
Using the general procedure, 2-bromoanisole (125 μL, 1.0 mmol) was coupled with n-hexylamine (198 μL, 1.5 mmol) at 100° C. for 22 h. Purification of the crude product by column chromatography on silica gel using hexane/ethyl acetate (30:1) as eluent afforded the desired product as a colorless liquid (184 mg, 89% yield). Rf=0.4 (hexane/ethyl acetate=20:1).

reactant | 2-bromoanisole | 1.0 mmol, 125 μL | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | n-hexylamine | 1.5 mmol, 198 μL | C(CCCCC)N | C6H15N
product | 2-Methoxy-N-hexylaniline | 184 mg, 89% yield | COC1=C(NCCCCCC)C=CC=C1 | C13H21NO
